US04200641
A mixture of 4.9 parts of 1-(3-chloropropyl)-1H-benzimidazole, 7 parts of 1-[(2-chlorophenyl)phenylmethyl]piperazine acetate, 10.6 parts of sodium carbonate, 0.1 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone is stirred and refluxed for 20 hours with water-separator. The reaction mixture is cooled, water is added and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is converted into the hydrochloride salt in 2-propanol and 2,2'-oxybispropane. The salt is filtered off and crystallized from 2-propanol, yielding 1-[3-{4-[(2-chlorophenyl)phenylmethyl]-1-piperazinyl}propyl]-1H-benzimidazole trihydrochloride dihydrate; mp. 182.9° C.

reactant | 1-(3-chloropropyl)-1H-benzimidazole | ClCCCN1C=NC2=C1C=CC=C2 | C10H11ClN2
reactant | 1-[(2-chlorophenyl)phenylmethyl]piperazine acetate | C(C)(=O)O.ClC1=C(C=CC=C1)C(N1CCNCC1)C1=CC=CC=C1
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 1-[3-{4-[(2-chlorophenyl)phenylmethyl]-1-piperazinyl}propyl]-1H-benzimidazole trihydrochloride dihydrate | O.O.Cl.Cl.Cl.ClC1=C(C=CC=C1)C(N1CCN(CC1)CCCN1C=NC2=C1C=CC=C2)C2=CC=CC=C2 | InChI=1S/C27H29ClN4.3ClH.2H2O/c28-24-12-5-4-11-23(24)27(22-9-2-1-3-10-22)31-19-17-30(18-20-31)15-8-16-32-21-29-25-13-6-7-14-26(25)32;;;;;/h1-7,9-14,21,27H,8,15-20H2;3*1H;2*1H2
